US03984465
2-Benzyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone (6 g.) is mixed with pyridine hydrochloride (60 g.) and the mixture is heated at 180°C. for three hours. The dark liquid is poured into water (1 l.) and the dark powdery product is collected and crystallized from acetic acid to obtain 2-benzyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (2 g.), m.p. 219°-221°C. The product is identified by its nuclear magnetic resonance spectrum.

reactant | 2-Benzyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone | 6 g | C(C1=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C18H16Cl2O2
reactant | pyridine hydrochloride | 60 g | Cl.N1=CC=CC=C1
solvent | water | 1 l | O | H2O
product | 2-benzyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 2 g | C(C1=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C17H14Cl2O2
